US07501425B1
(2-Chloro-3,5-dimethoxy-phenyl)-carbamic acid, tert-butyl ester
Into a solution of 9.57 g (44.18 mmol) of 2-chloro-3,5-dimethoxy-benzoic acid and 4.78 g (47.3 mmol) of triethylamine in 250 mL of toluene was added 13.57 g (49.3 mmol) diphenylphosphoryl azide. The reaction was refluxed for 4 hours. To the reaction was added 3.63 g (49.0 mmol) of tert-butanol. The reaction was refluxed overnight then concentrated in vacuo. The residue was partitioned between a cold 1N solution of citric acid and ethyl acetate. The ethyl acetate layer was washed twice with each of the following: cold IN citric acid solution, water, and then saturated sodium bicarbonate solution. The ethyl acetate layer was dried with magnesium sulfate and concentrated in vacuo. The residue was dissolved in tetrahydrofuran, added silica gel and concentrated to dryness. The residue was chromatographed on silica gel, eluting with hexane/diethyl ether (9:1 v/v), to give 8.14 g (64%) of the title compound: mp 94.5-95.5° C.

reactant | 2-chloro-3,5-dimethoxy-benzoic acid | 44.18 mmol, 9.57 g | ClC1=C(C(=O)O)C=C(C=C1OC)OC | C9H9ClO4
reactant | triethylamine | 47.3 mmol, 4.78 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 49.3 mmol, 13.57 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butanol | 49.0 mmol, 3.63 g | C(C)(C)(C)O | C4H10O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | (2-Chloro-3,5-dimethoxy-phenyl)-carbamic acid, tert-butyl ester | 8.14 g, 64% | ClC1=C(C=C(C=C1OC)OC)NC(OC(C)(C)C)=O | C13H18ClNO4
